US05750764
Ethyl pyruvate (1,64 g, 14,1 mmol) in dichloromethane (5 mL), was added to a mixture of 1-bromo-2-methoxynaphthalene (2,23 g, 9,41 mmol) and aluminium chloride (1,88 g, 14,1 mmol) in dichloromethane (20 mL) at 5° C. over 30 minutes. The mixture was stirred at 5° C. for a further 1,5 hours and poured on to ice. Ethyl 2-hydroxy-2-(5-bromo-6-methoxynaphth-2-yl)propionate was formed in 11% yield. 1HNMR δ (CDCl3) 1.24 (3H,t), 1.85 (3H,s), 4.00 (3H,s), 4.26 (2H,q), 7.2-8.2 (5H2 m).

reactant | Ethyl pyruvate | 14,1 mmol, 1,64 g | C(C(=O)C)(=O)OCC | C5H8O3
reactant | 1-bromo-2-methoxynaphthalene | 9,41 mmol, 2,23 g | BrC1=C(C=CC2=CC=CC=C12)OC | C11H9BrO
reactant | aluminium chloride | 14,1 mmol, 1,88 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | Ethyl 2-hydroxy-2-(5-bromo-6-methoxynaphth-2-yl)propionate | 11% yield | OC(C(=O)OCC)(C)C1=CC2=CC=C(C(=C2C=C1)Br)OC | C16H17BrO4
